US07863310B2
N-[Cyano]-[isobutyl]2-nitro-5-chloroaniline
Add lithium bis(trimethylsilyl)amide (45 mL, 1M in tetrahydrofuran) to a solution of N-[isobutyl]2-nitro-5-chloroaniline (5.2 g, 0.0226 mol) in tetrahydrofuran (50 mL) cooled in an ice bathe Stir for 30 minutes and add cyanogen bromide (5.3 g, 0.050 mol). Stir at room temperature for 3 hours. Concentrate under reduced pressure. Dissolve residue in dichloromethane, wash saturated aqueous sodium chloride, dry over magnesium sulfate, filter, and concentrate under reduced pressure. Subject residue to silica gel chromatography, eluting with hexane/ethyl acetate mixtures to provide 5.26 g (0.021 mol) of desired compound.

reactant | lithium bis(trimethylsilyl)amide | 1M, 45 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-[isobutyl]2-nitro-5-chloroaniline | 0.0226 mol, 5.2 g | C(C(C)C)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C10H13ClN2O2
reactant | cyanogen bromide | 0.050 mol, 5.3 g | N#CBr | CBrN
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-[Cyano]-[isobutyl]2-nitro-5-chloroaniline | 0.021 mol, 5.26 g | C(#N)N(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])CC(C)C | C11H12ClN3O2
